US07381840B2
Next, to a solution of N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-4-iodobenzamide (100 mg, 0.25 mmol) in a 3 to 1 mixture of DMF and H2O was added 3,4-difluorophenylboronic acid (80.3 mg, 0.51 mmol), tetrakis(triphenylphosphine)palladium(0) (8.82 mg, 0.01 mmol), and sodium carbonate (80.9 mg, 0.76 mmol). The mixture was stirred at 80° C. for 2.5 hours, and after cooled to room temperature, the product was extracted with diethyl ether. The organic layer was washed with water then brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. After triturated with ethylacetate and hexane, the solid was filtered to afford 3′,4′-difluoro-N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)biphenyl-4-carboxamide (51.9 mg, 54%).

reactant | N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-4-iodobenzamide | 0.25 mmol, 100 mg | OC1CCC=2C=CC=C(C2C1)NC(C1=CC=C(C=C1)I)=O | C17H16INO2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 3,4-difluorophenylboronic acid | 0.51 mmol, 80.3 mg | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 0.76 mmol, 80.9 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 8.82 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | O | H2O
product | 3′,4′-difluoro-N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)biphenyl-4-carboxamide | 51.9 mg, 54% | FC=1C=C(C=CC1F)C1=CC=C(C=C1)C(=O)NC1=CC=CC=2CCC(CC12)O | C23H19F2NO2
